US06200933B1
Production of 4-methylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid (Compound No. I-10)
4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl) phenoxy] picolinic acid (0.42 g, 0.0010 mol) and a small amount of 10% palladium/carbon were added to about 30 ml of methanol. The obtained mixture was stirred at room temperature for about 10 hours in a hydrogen atmosphere. The obtained reaction solution was filtered using High-Flow Super Cell, and then concentrated, thereby obtaining an aimed product.

reactant | 4-[methyl(phenylmethyl)amino]-6-[3-(trifluoromethyl) phenoxy] picolinic acid | 0.0010 mol, 0.42 g | CN(C1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O)CC1=CC=CC=C1 | C21H17F3N2O3
reactant | hydrogen | [H][H] | H2
catalyst | palladium/carbon | [Pd] | Pd
solvent | methanol | about 30 ml | CO | CH4O
product | 4-methylamino-6-[3-(trifluoromethyl)phenoxy] picolinic acid | CNC1=CC(=NC(=C1)OC1=CC(=CC=C1)C(F)(F)F)C(=O)O | C14H11F3N2O3
